US07838676B2
Step 3: Methyl 3-(1-acetylpiperidin-2-yl)-5-(1-cyclohexylethyl)benzoate
To an argon purged solution of methyl 3-(1-phenylvinyl)-5-(pyridin-2-yl)benzoate (73 mg, 0.23 mmol) in ethanol (5 mL) and HCl (conc. 1 mL) was added PtO2 (7 mg, 0.023 mmol). The mixture was hydrogenated under a hydrogen atmosphere (35 psi) for 6 h. The reaction mixture was purged with argon, filtered through a 0.2 μm filter, and concentrated. The resulting crude material was taken up with CH2Cl2 (5 mL) after which iPr2NEt (0.1 mL, 0.58 mmol) and acetyl chloride (18 μL, 0.25 mmol) were successively added. The mixture was stirred for 30 min, then diluted with CH2Cl2 (30 mL) and washed successively with 0.5 M HCl (1×10 mL), 9% sodium carbonate (1×10 mL), brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude residue containing the title compound was used without further purification. MS m/z=372 [M+1]+; Calc'd for C23H33NO3: 371.

reactant | methyl 3-(1-phenylvinyl)-5-(pyridin-2-yl)benzoate | 0.23 mmol, 73 mg | C1(=CC=CC=C1)C(=C)C=1C=C(C(=O)OC)C=C(C1)C1=NC=CC=C1 | C21H17NO2
reactant | iPr2NEt | 0.58 mmol, 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetyl chloride | 0.25 mmol, 18 μL | C(C)(=O)Cl | C2H3ClO
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | HCl | 1 mL | Cl | ClH
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | PtO2 | 0.023 mmol, 7 mg | O=[Pt]=O
product | Methyl 3-(1-acetylpiperidin-2-yl)-5-(1-cyclohexylethyl)benzoate | C(C)(=O)N1C(CCCC1)C=1C=C(C(=O)OC)C=C(C1)C(C)C1CCCCC1 | C23H33NO3
